US09340573B2
To a solution of methyl-{(S)-1-[(S)-2-methyl-1-((S)-2-phenylaminomethyl-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl)-propylcarbamoyl]-ethyl}-carbamic acid tert-butyl ester (25 mg, 0.05 mmol) in 1,4-dioxane (0.5 mL) was added 4 M HCl in dioxane (0.5 mL) dropwise at 0° C. The reaction mixture was stirred at rt for 3 h then concentrated in vacuo to obtain (S)-2-methylamino-N—[(S)-2-methyl-1-((S)-2-phenylaminomethyl-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl)-propyl]-propionamide hydrochloride (18 mg), m/z=410.4 (M+H).

reactant | methyl-{(S)-1-[(S)-2-methyl-1-((S)-2-phenylaminomethyl-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl)-propylcarbamoyl]-ethyl}-carbamic acid tert-butyl ester | 0.05 mmol, 25 mg | C(C)(C)(C)OC(N([C@@H](C)C(N[C@@H](C(C)C)C(=O)N1[C@@H](CC=2C1=NC=CC2)CNC2=CC=CC=C2)=O)C)=O | C28H39N5O4
reactant | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (S)-2-methylamino-N—[(S)-2-methyl-1-((S)-2-phenylaminomethyl-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl)-propyl]-propionamide hydrochloride | 18 mg | Cl.CN[C@H](C(=O)N[C@@H](C(C)C)C(=O)N1[C@@H](CC=2C1=NC=CC2)CNC2=CC=CC=C2)C | InChI=1S/C23H31N5O2.ClH/c1-15(2)20(27-22(29)16(3)24-4)23(30)28-19(13-17-9-8-12-25-21(17)28)14-26-18-10-6-5-7-11-18;/h5-12,15-16,19-20,24,26H,13-14H2,1-4H3,(H,27,29);1H/t16-,19-,20-;/m0./s1
